US04857507
(3S,4S)-4-Amino-3-hydroxy-6-methyl-1-phenethylmercaptoheptane
A solution of 4(S)-isobutyl-5(S)-[2-(phenethylmercapto)ethyl]-2-oxazolidinone (0.52 g, 1.69 mmol) and barium hydroxide octahydrate (1.06 g, 3.38 mmol) in dioxane (60 mL) and water (40 mL) was heated at reflux under N2 for 21 hours. The solid barium carbonate was filtered and the filtrate was partially evaporated. The residue was diluted with water and the resulting solution was extracted with ether. The organic extract was washed with brine solution, dried over MgSO4 and evaporated to a residue. Trituration with cold hexane gave 365 mg (77%) of product, m.p. 95°-96° C.

reactant | 4(S)-isobutyl-5(S)-[2-(phenethylmercapto)ethyl]-2-oxazolidinone | 1.69 mmol, 0.52 g | C(C(C)C)[C@@H]1NC(O[C@H]1CCSCCC1=CC=CC=C1)=O | C17H25NO2S
reactant | barium hydroxide octahydrate | 3.38 mmol, 1.06 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
product | (3S,4S)-4-Amino-3-hydroxy-6-methyl-1-phenethylmercaptoheptane | 365 mg, 77% | N[C@H]([C@H](CCSCCC1=CC=CC=C1)O)CC(C)C | C16H27NOS
